US07253154B2
(1) Ethyl 3-Cyano-4-isobutylbenzoate
Isobutyl bromide (56.1 mL, 512 mmol) was added to a suspension of the ethyl 3-cyano-4-hydroxybenzoate crude product (51.4 g) and potassium carbonate (70.8 g, 512 mmol) in dry DMF (200 mL), stirred at 100° C. for 10 hours, and cooled to room temperature. Ice-water (500 mL) was then added to the cooled suspension. The aqueous mixture was extracted with ethyl acetate (200 mL×2). The ethyl acetate portion was washed successively with water (500 mL×2) and aqueous saturated brine (200 mL), dried over anhydrous sodium sulfate, and placed under reduced pressure to distill the solvent off. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/4). The resulting crystalline product was dissolved in ethyl acetate (50 mL) under heating. The mixture was kept hot, while hexane (100 mL) was added to the mixture. The hexane solution was stirred and cooled to room temperature, and further stirred for 10 min. under cooling with ice. The precipitated crystalline product was collected by filtration, washed successively with ethyl acetate/hexane (1/5, 60 mL) mixture and hexane (500 mL), and dried in air, to give 20.8 g (yield 33%) of the desired compound in the form of a pale yellow crystalline product.

reactant | Isobutyl bromide | 512 mmol, 56.1 mL | C(C(C)C)Br | C4H9Br
reactant | ethyl 3-cyano-4-hydroxybenzoate | C(#N)C=1C=C(C(=O)OCC)C=CC1O | C10H9NO3
reactant | potassium carbonate | 512 mmol, 70.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-Cyano-4-isobutylbenzoate | 20.8 g, yield 33% | C(#N)C=1C=C(C(=O)OCC)C=CC1CC(C)C | C14H17NO2
